US04943568
Z-2-(2-amino-5-chlorothiazol-4-yl)but-2-enoic acid
0.7 g of Z-2-(5-chloro-2-tert.-butoxycarbonylaminothiazol-4-yl)but-2-enoic acid are dissolved in 5 ml of trifluoroacetic acid at 0° C. under nitrogen. The mixture is stirred at room temperature for one hour and evaporated in the cold and the residue is suspended in ethyl acetate. The pH is brought to 3.5 with saturated sodium bicarbonate solution, while stirring, the product first dissolving and then precipitating again. The product is filtered off with suction, washed with ethyl acetate and dried.

reactant | Z-2-(5-chloro-2-tert.-butoxycarbonylaminothiazol-4-yl)but-2-enoic acid | 0.7 g | ClC1=C(N=C(S1)NC(=O)OC(C)(C)C)/C(/C(=O)O)=C/C | C12H15ClN2O4S
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Z-2-(2-amino-5-chlorothiazol-4-yl)but-2-enoic acid | NC=1SC(=C(N1)/C(/C(=O)O)=C/C)Cl | C7H7ClN2O2S
